US04409234
5-Methyl-3-phenylindazole (400 g) was dissolved in toluene (1 l) and 1,3-dibromopropane (600 ml), and to the solution were added triethylbenzylammonium chloride (40 g) and 30% aqueous sodium hydroxide (800 ml). The mixture was heated at 60° C. for 30 minutes while stirring and the resulting organic layer was separated. The layer was washed with water, dried over sodium sulfate and then heated at reflux for 3 hours. The precipitate was recovered by filtration and washed with toluene to give 319 g of 2,3-dihydro-7-methyl-9-phenyl-1H-pyrazolo[1,2-a]indazolium bromide. The product which was recrystallized from water had a decomposition point of 239° C.

reactant | 5-Methyl-3-phenylindazole | 400 g | CC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C14H12N2
reactant | sodium hydroxide | 800 ml | [OH-].[Na+]
reactant | 1,3-dibromopropane | 600 ml | BrCCCBr | C3H6Br2
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
catalyst | triethylbenzylammonium chloride | 40 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2,3-dihydro-7-methyl-9-phenyl-1H-pyrazolo[1,2-a]indazolium bromide | 319 g | [Br-].CC1=CC2=C(N3[N+](=C2C=C1)CCC3)C3=CC=CC=C3 | InChI=1S/C17H17N2.BrH/c1-13-8-9-16-15(12-13)17(14-6-3-2-4-7-14)19-11-5-10-18(16)19;/h2-4,6-9,12H,5,10-11H2,1H3;1H/q+1;/p-1
